US07429665B2
1-[4-(Quinolin-2-ylmethoxy)-phenyl]-ethanone
To a solution of 2-Chloromethyl quinoline (2.5 g, 14 mmole) in acetone (47 ml) was added 4-hydroxy acetophenone (1.92 g, 1.0 eq.) and potassium carbonate (2.5 g, 2 eq.). The reaction mixture was heated at 60° C. for 16 h under N2 atmosphere, cooled to ambient temperature and poured into 1N sodium hydroxide (50 ml)/ethyl acetate (100 ml). The layers were separated and the organic layer dried magnesium sulfate, filtered and concentrated. Biotage MPLC was run using a 5-40% ethyl acetate/hexane gradient on a 40 M column to provide the title compound as a white solid (2.75 g, 71%). 1H NMR (400 MHz, CDCl3) δ 8.19 (d, J=8.7 Hz, 1 H), 8.07 (d, J=8.7, 1H), 7.91 (m, 2H), 7.82 (dd, J=8.3, 1.3 1H), 7.73 (t, J=7.1 Hz, 1 H), 7.62 (d, J =8.3 Hz, 1 H), 7.54 (t, J=7.1 Hz, 1 H), 7.06 (m, 2H), 5.42 (s, 2 H), 2.51 (s, 3 H); MS: (M+H m/z=278.3).

reactant | 2-Chloromethyl quinoline | 14 mmole, 2.5 g | ClCC1=NC2=CC=CC=C2C=C1 | C10H8ClN
reactant | 4-hydroxy acetophenone | 1.92 g, 1.0 eq. | CC(=O)C=1C=CC(=CC1)O | C8H8O2
reactant | potassium carbonate | 2.5 g, 2 eq. | C([O-])([O-])=O.[K+].[K+]
reactant | sodium hydroxide | 1N, 50 ml | [OH-].[Na+]
solvent | acetone | 47 ml | CC(=O)C | C3H6O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-[4-(Quinolin-2-ylmethoxy)-phenyl]-ethanone | 2.75 g, 71% | N1=C(C=CC2=CC=CC=C12)COC1=CC=C(C=C1)C(C)=O | C18H15NO2
